Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
quinidine / Sulfa(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
NSTEMI
 
Major Surgical or Invasive Procedure:
s/p lap chole ___ @ OSH with gangrenous cholecystits

 
History of Present Illness:
___ is a ___ M with history of coronary artery disease 
s/p CABG in 1990s (4V: RIMA to LAD, LIMA to diagonal, SVG to OM, 
SVG to PDA), CVA x2 since ___, on coumadin for strokes, also 
history of IDDM and Renal Cell Carcinoma s/p unilateral 
nephrectomy in ___ (unknown baseline Cr) who initially 
presented to ___ with abdominal pain found to have 
gangrenous cholecystitis s/p lap cholecystectomy and developed 
acute myocardial infarction postop now transferred to our CCU 
for futher management.
 
Patient initially presented to ___ with 24 hours of 
colicky abdominal pain, RUQ in nature also with associated 
nausea and vomiting without diarrhea, hematemesis, GIB, chest 
pain or dyspnea. CT abdomen performed which showed gallbladder 
distension, wall thickening and pericholecystic stranding 
consistent with cholecystitis. Labs notable for a lactate of 
2.8, K of 5.0, Cr 2.3, T.bili or 0.8, normal ALT/AST/ALP, WBC of 
22.4 with 75% PMNs and 16% bands. He was admitted to ___ 
where he was treated with IV ABx and taken to the OR. In the OR 
a Lap Chole was performed with drainage for gangrenous 
cholecystitis with diffuse oozing from the liver bed requiring 4 
units FFP to reverse coumadin therapeutic INR. He received 1 
unit pRBCs post-op for 500cc of blood loss. He was kept 
overnight in the ICU and was stable overnight. Post-op troponin 
was 0.07 considered likely demand ischemia from sepsis and known 
coronary artery disease. Around 5am of ___ patient 
developed acute dyspnea without chest pain and desaturated to 
high ___. Troponin checked during that time was 21 which 
uptrended to 31.4 the morning of transfer on the ___. Unclear 
if patient received a Plavix load but home medications document 
he is on 75mg daily, he received a full dose aspirin but did not 
receive aspirin or plavix this morning because patient unable to 
swallow. He denied any chest pain during this troponin rise and 
there were no events on telemetry. Morning of transfer the 
patient was found to be in new acute renal failure to Cr of 3.0 
along with the Troponin of 31. He was deemed not a 
catheterization candidate given single kidney and acute renal 
failure to Cr of 3.0. Additionally, patient found to have 
pneumonia, CHF exacerbation and repeat TTE showed LVEF of 35% 
with apical akinesis and diffuse hypokinesis. He was unable to 
tolerate PO intake so received 5mg IV metoprolol and PR aspirin. 
Also maintained on Heparin drip (started on ___ for NSTEMI 
currently therapeutic PTT at Heparin 950units/hr. Patient has 
been hemodynamically stable while on stress dosed steroids 
(hydrocortisone 50mg IV BID) as pt takes fludrocortisone on 
chronic basis. 
   
Vitals prior to transfer Sinus Rhythm at 80bpm, 134/92, 99% on 
4LNC. Notable labs before transfer: Cr 2.4, wbc 19.7, hct 31.1 
down from 37.6 (___), and TnI 24.3.
  
On arrival to the floor, patient saturations varying in ___ on 
4L NC, on heparin gtt. On room air, sats drop to 83% and was put 
on 50% face mask. Came to floor with Foley already placed with 
cloudy urine. Patient A&Ox2 (cannot recall month). Denies 
CP/SOB, palpitations, n/v, headache, weakness.
   
REVIEW OF SYSTEMS  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
- Coronary Artery Disease s/p CABG (4V: RIMA to LAD, LIMA to 
diagonal, SVG to OM, SVG to PDA) ___
- Hypertension
- Hyperlipidemia
- s/p Two strokes since ___ with near complete recovery (mild 
balance issues), on coumadin for strokes
- Diabetes Mellitus (control? Insulin?), A1c 6.5% recently
- Renal Cell Carcinoma s/p nephrectomy ___
- Cataracts
 
PAST SURGICAL HISTORY:
- s/p appendectomy 
- s/p nephrectomy
- s/p cholecsytectomy with drainage
 
Social History:
___
Family History:
Difficult to obtain given mental status
 
Physical Exam:
ADMISSION
VS: T= 97.4 BP= 130/79 HR=80 RR=22 O2 sat=95% on 50% shovel mask 
 
GENERAL: in NAD. Oriented x2. Mood, affect appropriate. Appears 
drowsy and intermittently gives inappropriate responses.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma. 
NECK: Supple with JVP of 5cmH20
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. +L sided crackles, R 
side with diminished breath sounds to base, no wheezes or 
rhonchi.  
ABDOMEN: Soft, ND, appropriately tender. Dressings to RUQ c/d/i, 
No HSM or tenderness. Abd aorta not enlarged by palpation. No 
abdominial bruits.  
EXTREMITIES: No peripheral edema, weak pedal pulses, cool distal 
toes  
SKIN: +vertical sternotomy scar, dry, No stasis dermatitis, 
ulcers, or xanthomas 
 
DISCHARGE
VS: Tcurrent: 98.2, Tmax 98.8, BP 128-154/74-83, HR 76, 97% on 
RA. 
GENERAL: in NAD. Oriented x 2. Mood, affect appropriate. With 
decreased energy.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
NECK: Supple, with JVP of 5cmH20
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. diminished breath 
sounds at bases, no wheezes or rhonchi.  
ABDOMEN: Soft, ND, appropriately tender. Dressings to RUQ c/d/i, 
No HSM or tenderness. Abd aorta not enlarged by palpation. No 
abdominial bruits.  
EXTREMITIES: No peripheral edema, weak pedal pulses, cool distal 
toes  
SKIN: +vertical sternotomy scar, dry, No stasis dermatitis, 
ulcers, or xanthomas 
 
Pertinent Results:
ADMISSION
___ 01:00PM   WBC-17.2* RBC-3.37* HGB-10.0* HCT-31.2* 
MCV-93 MCH-29.6 MCHC-32.0 RDW-14.8
___ 01:00PM   NEUTS-93.6* LYMPHS-3.5* MONOS-2.8 EOS-0.1 
BASOS-0
___ 01:00PM   ___ PTT-55.4* ___
___ 01:00PM   CALCIUM-8.3* PHOSPHATE-4.8* MAGNESIUM-2.2
___ 01:00PM   %HbA1c-6.6* eAG-143*
___ 01:00PM   ALT(SGPT)-29 AST(SGOT)-59* CK(CPK)-135 ALK 
PHOS-94 TOT BILI-0.3
___ 01:00PM   CK-MB-26* MB INDX-19.3* cTropnT-2.11*
___ 01:00PM   CALCIUM-8.3* PHOSPHATE-4.8* MAGNESIUM-2.2
___ 01:00PM   GLUCOSE-157* UREA N-59* CREAT-2.5* SODIUM-145 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-27 ANION GAP-17
___ 01:26PM   LACTATE-2.1*
___ 01:26PM   ___ PO2-24* PCO2-53* PH-7.34* TOTAL 
CO2-30 BASE XS-0
 
OTHER STUDIES
CK-MB: 26 -> 13 -> 8
Trop: 2.11 -> 1.74 -> 1.34
 
 
MICRO 
___ CULTURE-NO GROWTH
___ Culture, Routine-PENDING
___ SCREEN-PENDINGINPATIENT
___ CULTURE-NO GROWTH
___ Culture, Routine-PENDING
 
TRANSTHORACIC ECHO: The left atrium is mildly dilated. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is severely 
depressed (LVEF= 25 %) with global LV hypokinesis and regional 
mid to distal inferior/infero-apical akinesis. Portions of the 
basal to mid septum are near akinetic. No masses or thrombi are 
seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size is normal with mild 
global free wall hypokinesis. The aortic root is mildly dilated 
at the sinus level. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion. IMPRESSION: 
Severely depressed LVEF suggestive of multivessel CAD.
 
CXR ___: 
1.  Moderate interstitial edema.  
2.  Bilateral small-to-moderate pleural effusion.
 3.  Bibasilar consolidations are probably atelectases; however, 
aspiration or pneumonia cannot be excluded.
 
CXR ___: In comparison with the study of ___, there are 
continued low lung volumes with moderate pulmonary edema and 
bilateral layering effusions with compressive atelectasis at the 
bases.  No evidence of acute focal pneumonia, though this could 
well be hidden on the single frontal view in view of the other 
pulmonary findings. 
___ ___  ___  ___ 
 
CXR: ___:   
IMPRESSION:   
1.Unchanged bibasilar atelectasis and bilateral 
small-to-moderate pleural 
effusions.  
2.Possible mild pulmonary edema. 
  
DISCHARGE:
___ 07:40AM BLOOD WBC-13.4* RBC-3.47* Hgb-10.1* Hct-31.9* 
MCV-92 MCH-29.2 MCHC-31.8 RDW-15.2 Plt ___
___ 06:15AM BLOOD Neuts-86.3* Lymphs-6.6* Monos-6.6 Eos-0.4 
Baso-0.1
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD ___ PTT-34.3 ___
___ 07:40AM BLOOD Glucose-163* UreaN-71* Creat-2.1* Na-143 
K-3.7 Cl-106 HCO3-28 AnGap-13
___ 07:40AM BLOOD Calcium-8.1* Phos-3.6 Mg-2.0
___ 01:00PM BLOOD %HbA1c-6.6* eAG-143*
 
Brief Hospital Course:
___ M with history of insulin dependent diabetes mellitus, 
coronary artery disease s/p CABG, admitted to ___ initially 
with cholecystitis s/p cholecystectomy who developed acute MI 
and respiratory distress from CHF exacerbation, transferred to 
___ for further management without percutaneous coronary 
intervention due to tenuous renal status.
   
# NSTEMI: Patient presented with troponinemia in the postop 
setting (s/p cholecystectomy), likely demand ischemia. EKG 
without significant ST or other worrisome changes. He did not 
have chest pain and remained hemodynamically stable. However, he 
has poor functional status at baseline, with multiple 
comorbidities as well as CKD, and thus risks of intervention 
would seem to outweigh benefits. A TTE showed severely decreased 
left ventricular ejection fraction (25%), with global LV 
hypokinesis and regional mid to distal inferior/infero-apical 
akinesis. He was initially managed with heparin drip, and was 
later transitioned to ASA 81 / Plavix 75mg / Coumadin 3mg / 
Metoprolol 25mg TID / Atorvastatin 80mg. At the time of 
discharge, he remained asymptomatic. Would consider restarting 
ACE-I given SCHF and CAD for afterload reduction as outpatient. 
  
# CHF exacerbation: Chronic systolic CHF with LVEF of 25%. 
Patient does not use O2 at home, however presented with a new 
oxygen requirement. Pt with pleural effusion and congestion 
consistent with acute exacerbation of systolic CHF, ejection 
fraction 25%. He did not have cough or sputum production to 
suggest pneumonia. A TTE showed severely decreased left 
ventricular ejection fraction (25%), with global LV hypokinesis 
and regional mid to distal inferior/infero-apical akinesis. He 
was treated with lasix for diuresis, and was started on 
metoprolol as well as nitroprusside. ACE-I was held given his 
___ (see below). At the time of discharge, he maintained high 
oxygen saturation without supplemental O2. 
 
#AOCKD: Unknown baseline Cr but patient with history of CKD, s/p 
nephrectomy as pt with h/o RCC s/p nephrectomy and with Cr 
ranging from 2.2 to 2.6 at OSH. Patient with sepsis 
(cholecystitis source) and thus hypovolemia/prerenal azotemia 
likely cause of ___. This was worsened with diuresis for his 
sCHF. ACE-I was held during this admission, and his renal 
function improved with discontinuation of diuresis. At the time 
of discharge his Cr was 2.1 and thought to be back to baseline.
 
# Cholecystitis: s/p Lap Chole with 3 drains placed (and d/c'd) 
for continued oozing and gangrenous cholecystitis. Bile cx from 
OSH grew Klebsiella, sensitive to levofloxacin. He was treated 
with levofloxacin and flagyl from ___ to ___, and was 
transitioned to ciprofloxacin alone. On day of discharge day 8 
out of 14 day course of Ciprofloxacin. On discharge remains with 
slight leukocytosis of 13.4 however afebrile wihtout evidence of 
active infection.  
   
# Delirium: A&Ox2 on admission with unknown baseline after 
suffering two CVAs in past. ___ have vascular dementia with 
acute delirium postoperatively. No neuro deficits on exam. Urine 
on admission cloudy, and with leukocytosis. He was treated with 
antibiotics for his klebsiella intra-abdominal infection, and 
his leukocytosis and his mental status improved. 
  
# CAD: s/p CABG in 1990s, without chest pain during admission. 
His troponin was high on admission, likely due to demand 
ischemia and AOCKD. He was treated with ASA, statin, plavix, and 
beta blocker.
    
# Hypertension: he was continued on his home metoprolol. His 
fludrocortisone (for orthostatic hypotension) was initially held 
and resumed prior to discharge. 
 
# Hyperlipidemia: continued atorvastatin 80mg.
  
# Diabetes: Chronic Insulin Dependent Diabetes Mellitus, Type 
II, in good contgrol with HgA1C was 6.6 on admission. Treated 
with ISS while hospitalized.
   
Transitional Issues:
- Restart ACE-I given LVEF of 25%
- Patient has history of hemorrhagic stroke and is on plavix and 
warfarin so cautious with additional 
antiplatelets/anticoagulation
- Return to coumadin 5mg as outpatient when cipro course 
completed
- Monitor improvement in fever curve and leukocytosis as an 
outpatient with completion of Cipro course
- CODE: Full Code
- EMERGENCY CONTACT: Wife and HCP ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Fludrocortisone Acetate 0.1 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Metoprolol Succinate XL 12.5 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Warfarin 5 mg PO DAILY16 
7. Humalog 8 Units Breakfast
Humalog 8 Units Lunch
Humalog 8 Units Dinner
Levemir 24 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
8. Multivitamins 1 TAB PO DAILY 
9. Atorvastatin 80 mg PO DAILY 
10. traZODONE 50 mg PO HS 
11. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Fludrocortisone Acetate 0.1 mg PO DAILY 
5. Glargine 8 Units Bedtime
Insulin SC Sliding Scale using REG Insulin
6. Metoprolol Succinate XL 75 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Vitamin D 800 UNIT PO DAILY 
9. traZODONE 50 mg PO HS 
10. Warfarin 3 mg PO DAILY16 
11. Acetaminophen 325-650 mg PO Q6H:PRN Pain or Fever 
12. Ciprofloxacin HCl 500 mg PO Q24H Duration: 6 Days 
13. Docusate Sodium (Liquid) 100 mg PO BID 
14. HydrALAzine 20 mg PO TID 
15. Senna 1 TAB PO BID:PRN Constipation 
16. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
17. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
18. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
NSTEMI (non ST elevation myocardial infarction) 
CAD (coronary artery disease) s/p CABG in ___ 
Acute on chronic systolic heart failure 
Acute on Chronic kidney disease 
Leukocytosis (high white blood cell count) 
Cholecystitis s/p laprascopic cholecystectomy c/b gangrenous 
cholecystitis 
Hypertnesion 
Hyperlipidemia 
Insulin Dependent Diabetes Mellitus 
s/p Two strokes since ___ with near complete recovery (mild 
balance issues), on coumadin for strokes 
Renal Cell Carcinoma s/p nephrectomy ___ 
Cataracts 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital because after having your 
gallbladder taken out you were having a heart attack as well as 
a heart failure (decreased pumping function) exacerbation with 
shortness of breath and respiratory failure. At the same time 
your kidney funciton was poor likely in the setting of low 
perfusion or blood flow to the kidneys. 

Because your preexisting conditions and your acute kidney 
failure, we decided that the risk outweighed the benefit of 
percutaneous coronary intervention and decided to manage your 
heart attack with medications. 

You also developed an infection at the site of where your 
gallbladder was removed. Because of this you are on antibiotics 
and will continue them for a total of 14 days.   

Because of your heart failure it is important that you weigh 
yourself every morning, call MD if weight goes up more than 3 
lbs in two days.
 
Followup Instructions:
___